Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2].[O:3]=[C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],3.3833157660000004
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13].[H:14],4.62843203478
[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13],-6.088670806290001
[C:1][C:2]([H:3])([H:4])[C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1].[C:2]([H:3])([H:4])[C:5]([O:6][H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13],3.95857870476
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10][H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-5.24476788859
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][O:11][H:12]>>[C:1].[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][O:11][H:12],7.000030090119997
[O:1]=[C:2][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[O:3]=[C:4]([H:5])[H:6]>>[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.27934256984
[C:3]([H:4])([H:5])=[C:6][O:7][C:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][C:9]([H:10])([H:11])[H:12],-2.59851769106
[H:4].[O:1][O:2][C:3][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[O:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11],-5.03241702748
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]#[C:10][H:11]>>[C:9]#[C:10][H:11].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8],5.006806531640001
[H:1][C:2]=[C:3]1[C:4]([H:5])([H:6])[O:7][C@:8]1([H:9])[O:10][H:11]>>[H:1][C:2]#[C:3][C@@:8]([O:7][C:4]([H:5])[H:6])([H:9])[O:10][H:11],0.26703122035
[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7][H:8]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[H:12],-5.13571383582
[H:11].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9][H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11],-4.97362438241
[O:1]=[C:2]1[O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]1([H:11])[H:12]>>[O:1]=[C:2][O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12],3.15179421504
[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-6.4231447413
[H:1][O:2][C:3]([O:4][C:5]([H:6])[H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:4]=[C:5]([H:6])[H:7],0.743993161311
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1].[O:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],2.51568037569
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][O:10][H:11]>>[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9][O:10][H:11],3.88508362293
[C:7]([H:8])[H:9].[H:1][C:2]([H:3])[O:4][C:5]#[C:6][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.06302728596
[H:4].[O:1]=[C:2]([C:3][O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.27710333794
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])[H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8].[O:9]=[C:10]([H:11])[H:12],1.3193819018600002
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10],5.15684089746
[O:1]=[C:2]([H:3])[C:4]([H:5])([C:6](=[O:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:5].[O:1]=[C:2]([H:3])[C:4]([C:6](=[O:7])[H:8])[C:9]([H:10])([H:11])[H:12],3.5600439202900005
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-3.90902346847
[H:1][C:2]([H:3])=[C:4]=[C:10]([H:6])[C:11]([C:5]=[C:7]([H:8])[H:9])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4][C:5]1([H:6])[C:7]([H:8])([H:9])[C:10][C:11]1([H:12])[H:13],2.65042820567
[C:6]([H:7])[H:8].[O:1][O:2][C:3]([H:4])=[C:5]>>[O:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8],-8.10958048629
[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]1[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]1([H:10])[H:11],-1.41953599712
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2],5.39302019087
